US04912258
3-(6-fluoro-1,2,3,4-tetrahydro-1-quinolyl)-propanesulfonic acid
To 6,05 g (40 mMol) 6-fluoro-1,2,3,4-tetrahydroquinoline in 20 ml acetone, 5.9 g (48 mMol) of propane sultone dissolved in 20 ml acetone are added dropwise for a period of 40 minutes at 50° to 60° C. After 24 hours of refluxing and again after 48 hours a further 5.9 g of propane sultone are added. After a total of 60 hours of refluxing, the reaction mixture is concentrated by evaporation and the volatile components are removed in high vacuum (0.01 torr) by heating to about 150° C. The residue is recrystallized from 115 ml methanol.

reactant | 6-fluoro-1,2,3,4-tetrahydroquinoline | 40 mMol, 6,05 g | FC=1C=C2CCCNC2=CC1 | C9H10FN
reactant | propane sultone | 48 mMol, 5.9 g | C1CCOS1(=O)=O | C3H6O3S
reactant | propane sultone | 5.9 g | C1CCOS1(=O)=O | C3H6O3S
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-(6-fluoro-1,2,3,4-tetrahydro-1-quinolyl)-propanesulfonic acid | FC=1C=C2CCCN(C2=CC1)CCCS(=O)(=O)O | C12H16FNO3S
